US06177419B1
6-(2-Hydroxyphenyl)-6′-(2-hydroxy-5-methoxyphenyl)-2,2′-bipyridine was prepared from 6-bromo-6′-(2-hydroxy-5-methoxyphenyl)-2,2′-bipyridine and 2-hydroxyphenylboronic acid in 66% yield using method F; δH [2H6]-DMSO 13.55,(1H, s), 12.57,(1H, s), 8.35,(2H, m), 8.27-8.10,(5H, m), 7.65,(1H, s), 7.37,(1H, t), 7.03-6.93,(4H, m), 3.83,(3H, s); MS 371 (MH)+; HPLC retention time (system 1) 4.08 minutes.

reactant | 6-bromo-6′-(2-hydroxy-5-methoxyphenyl)-2,2′-bipyridine | BrC1=CC=CC(=N1)C1=NC(=CC=C1)C1=C(C=CC(=C1)OC)O | C17H13BrN2O2
reactant | 2-hydroxyphenylboronic acid | OC1=C(C=CC=C1)B(O)O | C6H7BO3
product | 6-(2-Hydroxyphenyl)-6′-(2-hydroxy-5-methoxyphenyl)-2,2′-bipyridine | 66% yield | OC1=C(C=CC=C1)C1=CC=CC(=N1)C1=NC(=CC=C1)C1=C(C=CC(=C1)OC)O | C23H18N2O3
